US09376443B2
7-(3-methoxyphenyl)-3-(6-[1-hydroxycyclobutyl]pyrid-2-ylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-amine
Prepared from 7-chloro-3-{6-[1-hydroxy-1-cyclobutyl]pyridin-2-ylmethyl}-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine and 3-methoxyphenylboronic acid by the method described in Example 7 to give the title compound (0.04 g, 16%).

reactant | 7-chloro-3-{6-[1-hydroxy-1-cyclobutyl]pyridin-2-ylmethyl}-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine | ClC=1C2=C(N=C(N1)N)N(N=N2)CC2=NC(=CC=C2)C2(CCC2)O | C14H14ClN7O
reactant | 3-methoxyphenylboronic acid | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 7-(3-methoxyphenyl)-3-(6-[1-hydroxycyclobutyl]pyrid-2-ylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-amine | 0.04 g, 16% | COC=1C=C(C=CC1)C=1C2=C(N=C(N1)N)N(N=N2)CC2=NC(=CC=C2)C2(CCC2)O | C21H21N7O2
